US05668161
Preparation of 2-(4-Chlorophenyl)-3-(4-methylthiophenyl)propenoic Acid
A mixture of acetic anhydride (80 mL), 4-(methylthio)benzaldehyde (9.81 g, 61.2 mmol), 4-chlorophenylacetic acid (12.03 g, 70.5 mmol), and triethylamine (7.49 g, 7.42 mmol) was heated to reflux for 7 hours. The reaction was cooled to 90° C., and water (100 mL) was added through an addition funnel. A yellow solid separated from the solution which was isolated by filtration and air dried to afford the desired acid. The acid was recrystallized from toluene (9.59 g, 51%): mp 185°-187° C. 1H NMR (CDCl3) 300 MHz 7.91 (s, 1H), 7.35 (d, J=8.3 Hz, 1H), 7.17-7.35 (m, 3H), 7.03 (d, 2H), 7.00 (d, J=8.7 Hz, 2H), 2.44 and 2.36 (s, 3H). Mass spectrum: M+H=305.

reactant | acetic anhydride | 80 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-(methylthio)benzaldehyde | 61.2 mmol, 9.81 g | CSC1=CC=C(C=O)C=C1 | C8H8OS
reactant | 4-chlorophenylacetic acid | 70.5 mmol, 12.03 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | triethylamine | 7.42 mmol, 7.49 g | C(C)N(CC)CC | C6H15N
solvent | water | 100 mL | O | H2O
product | 2-(4-Chlorophenyl)-3-(4-methylthiophenyl)propenoic Acid | ClC1=CC=C(C=C1)C(C(=O)O)=CC1=CC=C(C=C1)SC | C16H13ClO2S
